US04526897
5.9 g (0.025M) of 2-amino-4,7-dichloroisoindoline hydrochloride and 3,6 g (0.028M) of 1-acetylimidazolidin-2-one are heated to 100° C. over 2 hours in 50 ml of phosphorus oxychloride. The Cl3OP is evaporated off and the residue dissolved in 100 ml of ethanol and heated to the boiling point for 1 hour to eliminate the acetyl group. The solvent is drawn off in the vacuum, the residue picked up in water, alkalized with dilute sodium hydroxide solution, and extracted with chloroform. The chloroform is evaporated, and ethyl ether added, yielding 3.4 g of 4,7-Dichloro-2-(2-imidazolin-2-ylamino)-isoindoline as a base, which is converted with ethanolic hydrochloric acid into the hydrochloride.

reactant | 2-amino-4,7-dichloroisoindoline hydrochloride | 0.025M, 5.9 g | Cl.NN1CC2=C(C=CC(=C2C1)Cl)Cl
reactant | 1-acetylimidazolidin-2-one | 0.028M, 3,6 g | C(C)(=O)N1C(NCC1)=O | C5H8N2O2
solvent | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4,7-Dichloro-2-(2-imidazolin-2-ylamino)-isoindoline | 3.4 g | ClC1=C2CN(CC2=C(C=C1)Cl)NC=1NCCN1 | C11H12Cl2N4
